US09034866B2
10-bromo-9-fluoro-3-iodo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was reacted with 2-methyl-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]propan-2-ol similarly to as described in Example 4 to produce crude 10-bromo-9-fluoro-3-(1-(2-hydroxy-2-methylpropyl)-1H-pyrazol-4-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide. This intermediate was reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol via General Procedure E to afford 11 mg (10%) of 9-fluoro-10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-3-[1-(2-hydroxy-2-methyl-propyl)pyrazol-4-yl]-5,6,7,12-tetrahydro-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide.

reactant | 10-bromo-9-fluoro-3-iodo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)I)C1)F | C14H10BrFIN3O
reactant | 2-methyl-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]propan-2-ol | CC(CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)(C)O | C13H23BN2O3
product | 10-bromo-9-fluoro-3-(1-(2-hydroxy-2-methylpropyl)-1H-pyrazol-4-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C=3C=NN(C3)CC(C)(C)O)C1)F | C21H21BrFN5O2
